US07262185B2
(2-chloro-4-nitrophenyl)(pyridin-2-yl)methanol (1 g) was dissolved in tetrahydrofuran (15 ml), ethanol (15 ml) and water (15 ml), and sodium hydrosulfide (3.3 g) was added to the mixture, and the mixture was refluxed for 30 minutes. After concentration, the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off, to give (4-amino-2-chlorophenyl)(pyridin-2-yl)methanol (0.21 g) as colorless crystals.

reactant | (2-chloro-4-nitrophenyl)(pyridin-2-yl)methanol | 1 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(O)C1=NC=CC=C1 | C12H9ClN2O3
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | water | 15 ml | O | H2O
reactant | sodium hydrosulfide | 3.3 g | [SH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (4-amino-2-chlorophenyl)(pyridin-2-yl)methanol | 0.21 g | NC1=CC(=C(C=C1)C(O)C1=NC=CC=C1)Cl | C12H11ClN2O
